US04543257
Step B: 1-(o-nitrobenzyloxycarbonylmethyltriphenylphosphoranyl)-4-(chlorocarbonylmethyl)-2-azetidinone
From Step A, 1-(o-nitrobenzyloxycarbonylmethyltriphenylphosphoranyl)-4-(carboxymethyl)-2-azetidinone (0.851 g) is dissolved in 20 ml CH2Cl2 and cooled to 0° C. under N2. Oxalyl chloride (0.8 ml) is added dropwise over 5 min and then 1 drop of DMF is added. The mixture is stirred at 0° C. for 5 min and then at 25° C. for 15 min. The solvent and excess oxalyl chloride are evaporated under reduced pressure. The residue is the desired acid chloride which is used without purification in the next step.

reactant | 1-(o-nitrobenzyloxycarbonylmethyltriphenylphosphoranyl)-4-(carboxymethyl)-2-azetidinone | 0.851 g | [N+](=O)([O-])C1=C(COC(=O)CP(N2C(CC2CC(=O)O)=O)(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C32H29N2O7P
reactant | Oxalyl chloride | 0.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 1-(o-nitrobenzyloxycarbonylmethyltriphenylphosphoranyl)-4-(chlorocarbonylmethyl)-2-azetidinone | [N+](=O)([O-])C1=C(COC(=O)CP(N2C(CC2CC(=O)Cl)=O)(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C32H28ClN2O6P
